US09079866B2
5-[2,3-Difluoro-2′-(methylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
Nitrogen sparged DMSO (0.73 ml) was added to a mixture of 5-(4-bromo-2,3-difluorophenyl)pyrazin-2-amine (50 mg, 0.18 mmol), (2-(methylsulfonyl)phenyl)boronic acid (35 mg, 0.18 mmol), K2CO3 (73 mg, 0.532 mmol) and PdCl2(dppf).CH2Cl2 (13 mg, 0.018 mmol) and heated at 80° Celsius for 2.5 hours. The mixture was cooled to rt and partitioned between sat. NaHCO3 and EtOAc. The organic layer was isolated, dried over MgSO4, and concentrated to dryness. Purification by FCC afforded the title compound (26 mg, 41%). MS (ESI): mass calcd. for C17H13F2N3O2S, 361.07; m/z found, 362.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.44-8.41 (m, 1H), 8.14 (dd, J=7.9, 1.4, 1H), 8.04 (d, J=1.5, 1H), 7.84 (m, 1H), 7.78 (m, 1H), 7.75-7.66 (m, 1H), 7.53 (dd, J=7.5, 1.3, 1H), 7.30 (dd, J=11.6, 4.9, 1H), 6.85 (s, 2H), 3.06 (s, 3H).

reactant | 5-(4-bromo-2,3-difluorophenyl)pyrazin-2-amine | 0.18 mmol, 50 mg | BrC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)F | C10H6BrF2N3
reactant | (2-(methylsulfonyl)phenyl)boronic acid | 0.18 mmol, 35 mg | CS(=O)(=O)C1=C(C=CC=C1)B(O)O | C7H9BO4S
reactant | K2CO3 | 0.532 mmol, 73 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.018 mmol, 13 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[2,3-Difluoro-2′-(methylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | 26 mg, 41% | FC1=C(C=CC(=C1F)C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)C | C17H13F2N3O2S
